US04003921
In a flask as described in Example 1, 1000 g 2-phenylpropanal are reacted in the presence of 90 g of a commercially available nickel containing carrier catalyst (containing about 52 to 53% by weight nickel, and employing chromium (3)-oxide as activator) at a temperature of 130°, with a total of 300 l ammonia and hydrogen (volume ratio 1 : 1) during a reaction time of 2 hours. After termination of the reaction, the catalyst is separated by filtration. 921 g 2-phenylpropylidene-2-phenylpropylamine are obtained.

reactant | 2-phenylpropanal | 1000 g | C1(=CC=CC=C1)C(C=O)C | C9H10O
reactant | hydrogen | [H][H] | H2
reactant | ammonia | 300 l | N | H3N
catalyst | nickel | [Ni] | Ni
product | 2-phenylpropylidene-2-phenylpropylamine | 921 g | C1(=CC=CC=C1)C(C=NCC(C)C1=CC=CC=C1)C | C18H21N
